US08729310B2
Step 1: Synthesis of 1-(4-bromophenyl)-naphthalene
An Rf value of the desired substance by a silica gel thin layer chromatography (TLC) (developing solvent: hexane) was 0.38 and that of 4-bromoiodobenzene was 0.57.

reactant | 4-bromoiodobenzene | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | hexane | CCCCCC | C6H14
product | 1-(4-bromophenyl)-naphthalene | BrC1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C16H11Br
